US04205170
To 50 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-3-yl)-propionamide in 2 ml of ethanol was added 0.2 ml of conc. sulfuric acid and the mixture was refluxed with stirring for 5 hours. The solvent was distilled off to obtain the residue, which was extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain yellow oil, which was chromatographed over silica gel, eluted with chloroform and there was obtained 55 mg of ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-3-yl)-propionate as pale yellow oil.

reactant | 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-3-yl)-propionamide | 50 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C=C(C=C2)C(C(=O)N)C | C17H15NO3
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 2 ml | C(C)O | C2H6O
product | ethyl 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-3-yl)-propionate | 55 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C=C(C=C2)C(C(=O)OCC)C | C19H18O4
